* -------------------------------------------------------------------
* opamp.sub  -  self-contained single-pole op-amp macromodel
*
* .subckt OPAMP1 out inp inn vcc vee  params: A0=1e5 GBW=10e6 ROUT=50 VSAT=1.2
*
* Behavioural: gm stage -> internal pole node -> unity buffer -> ROUT.
* Output swing soft-limited to VSAT volts from each supply rail (single-rail
* friendly).  Pin order is the LTspice standard  out inp inn V+ V- .
* Swap this for a vendor model (NJM4580 / NJM4556A / LM358) when you have one.
* -------------------------------------------------------------------
.subckt OPAMP1 out inp inn vcc vee
+ params: A0=1e5 GBW=10e6 ROUT=50 VSAT=1.2
BGm 0 x  I={ (V(inp)-V(inn)) * A0/ROUT }
Rp  x 0  {ROUT}
Cp  x 0  {A0/(2*3.14159265*GBW*ROUT)}
Bhi x 0  I= uramp( V(x) - (V(vcc)-VSAT) ) * 1m
Blo x 0  I= -uramp( (V(vee)+VSAT) - V(x) ) * 1m
Eb  ob 0 x 0 1
Ro  ob out {ROUT}
.ends OPAMP1
