MeetingHub-4 v2 - does selecting a mic disturb the monitor (mixer) audio?
* Requirement (user, 2026-09-04): pressing a select button to route HEADSET_MIC
* to a laptop must NOT interrupt or glitch what you hear in the headset.
*
* The mic path and the monitor path are only coupled through:
*   (a) the shared +5V rail  (a relay coil is a ~30 mA load that switches)
*   (b) the shared GND pour
*   (c) VBIAS, derived from +5V (R1/R2) and buffered by U3
* This netlist runs a 1 kHz monitor tone through the real audio chain while it
* switches the mic from K1 (laptop 1) to K2 (laptop 2) at t = 320 ms, on a rail
* model with finite trace R/L between the bulk caps, the relay coils and the
* op-amp supply pins.  It measures the disturbance at J6.T (headphone output).
.include models.lib

* ============================ POWER RAIL (with trace parasitics) ============
VBUS   vbus 0   PWL(0 0  4m 5  1 5)
RF1    vbus pbulk 0.4                 ; RXEF050 PTC, ~0.4 ohm cold
D1     0 pbulk DP6KE68
C2     pbulk 0 10u
C1     pbulk 0 100n
* --- rail branch to the logic / relay coils (C23 = 100 uF sits here)
RRL    pbulk plog 0.30
LRL    plog  plogc 80n
C23    plogc 0 47u
* --- rail branch to the analog supply pins of U1/U2/U3 (C21/C22/C25 local)
RRA    pbulk paud 0.45
LRA    paud  paudc 120n
C21_25 paudc 0 300n

* ============================ VBIAS (buffered, v1 bug #3 fix) ===============
R1   paudc vref 10k
R2   vref  0    10k
C3   vref  0    10u
XU3  vbout vref vbias paudc 0  LM358
R38  vbout vbias 47
C26  vbias 0 1u
Rvb  vbias 0 3k                       ; representative downstream DC load

* ============================ MONITOR AUDIO CHAIN (L, 1 laptop) =============
* -10 dBV line level = 0.316 Vrms = 0.447 Vpk ; all pots at max (loudest).
Vin   in 0  SIN(0 0.447 1k)
C5    in p1top 1u
RV1s  p1top p1w 10                    ; pot @ max: wiper at signal end
RV1b  p1w   vbias 10k
R5    p1w   u1n 10k
R3    u1n   u1o 3k3
XU1   u1o vbias u1n  paudc 0  NJM4580 ; 4-input summing mixer (only ch.1 driven)
C13   u1o rv5top 1u
RV5s  rv5top mixl 10
RV5b  mixl   vbias 10k
C15   mixl u2p 1u
R13   u2p  vbias 100k
R15   u2n  u2o 1k
R14   u2n  fbg 1k
C16   fbg  0 10u
XU2   u2o u2p u2n  paudc 0  NJM4556A  ; headphone driver, AC gain 2
C17   u2o r16n 220u
R16   r16n j6t 10
Rhp   j6t 0 32                        ; 32 ohm headset load

* ============================ MIC SELECTOR (K1 -> K2 at t = 320 ms) =========
* Q1 is ON (K1 = laptop 1 selected), Q2 OFF.  At 320 ms the one-hot latch
* flips: Q1 -> OFF, Q2 -> ON.  Gate drive comes via R29/R30 (1k) from the
* CD4043B output, modelled here as an ideal 0/5 V edge.
VG1   g1 0  PWL(0 5      0.32 5        0.320001 0)
VG2   g2 0  PWL(0 0      0.32 0        0.320001 5)
R29   g1 gate1 1k
R33   gate1 0 100k
R30   g2 gate2 1k
R34   gate2 0 100k
XQ1   coil1 gate1 0  Q2N7000
XQ2   coil2 gate2 0  Q2N7000
XK1   plogc coil1 hmic nb1  RELAY_G5V1
XK2   plogc coil2 hmic nb2  RELAY_G5V1
D2    coil1 plogc D1N4148             ; free-wheel clamp to +5V (correct polarity)
D3    coil2 plogc D1N4148
* headset electret + the two laptop mic-input loads
Vmic  hmic 0 DC 2.0
Rl1   nb1 0 2.2k
Rl2   nb2 0 2.2k

.control
tran 1u 0.36 0.30 uic
* --- baseline monitor output, well before the switch (steady 1 kHz)
meas tran vpp_base   PP  v(j6t)  FROM=0.305 TO=0.315
meas tran vavg_base  AVG v(j6t)  FROM=0.305 TO=0.315
* --- during / right after the switch event
meas tran vpp_event  PP  v(j6t)  FROM=0.3195 TO=0.3235
meas tran vavg_event AVG v(j6t)  FROM=0.320 TO=0.324
meas tran vmax_event MAX v(j6t)  FROM=0.3199 TO=0.322
meas tran vmin_event MIN v(j6t)  FROM=0.3199 TO=0.322
* --- fully settled again
meas tran vpp_after  PP  v(j6t)  FROM=0.345 TO=0.355
meas tran vavg_after AVG v(j6t)  FROM=0.345 TO=0.355
* --- rail + VBIAS deviation caused by the coil switch
meas tran plog_min   MIN v(plogc) FROM=0.3199 TO=0.328
meas tran plog_base  AVG v(plogc) FROM=0.305 TO=0.315
meas tran paud_min   MIN v(paudc) FROM=0.3199 TO=0.328
meas tran paud_base  AVG v(paudc) FROM=0.305 TO=0.315
meas tran vbias_min  MIN v(vbias) FROM=0.3199 TO=0.33
meas tran vbias_max  MAX v(vbias) FROM=0.3199 TO=0.33
meas tran vbias_base AVG v(vbias) FROM=0.305 TO=0.315
* --- mic actually moved from nb1 to nb2
meas tran mic_nb1_before AVG v(nb1) FROM=0.31 TO=0.319
meas tran mic_nb1_after  AVG v(nb1) FROM=0.34 TO=0.355
meas tran mic_nb2_before AVG v(nb2) FROM=0.31 TO=0.319
meas tran mic_nb2_after  AVG v(nb2) FROM=0.34 TO=0.355
wrdata mic_switch_glitch_wc.dat v(j6t) v(plogc) v(paudc) v(vbias) v(coil1) v(coil2) v(nb1) v(nb2)
.endc
.end
