* ==========================================================================
* MeetingHub-4 v2 - device models for the BOM parts (ngspice syntax)
*
* These are datasheet-parameterised models, not vendor .lib downloads:
*   - 1N4148, 2N7000  : the long-standard published SPICE cards
*   - P6KE6.8A         : TVS as a breakdown diode, BV = 6.8 V, datasheet clamp
*   - NJM4580 / NJM4556A / LM358 : op-amp macromodels (1 dominant + 1 HF pole,
*     GBW / slew / Avol / output swing vs the datasheet), single-supply capable
*   - CD4043B latch    : behavioural NOR R/S latch with CD4000B 5 V thresholds
*   - G5V-1 relay      : coil R+L, contact = voltage-controlled switch
* Swap any of these for a vendor model in real LTspice - pin order is kept
* to the usual conventions.
* ==========================================================================

* --------------------------------------------------------- small-signal diode
.model D1N4148 D(IS=2.52n RS=0.568 N=1.752 CJO=4p M=0.4 TT=20n BV=100 IBV=0.1u)

* --------------------------------------------------------- P6KE6.8A TVS (D1)
* unidirectional 600 W TVS, Vbr 6.45-7.14 V @1mA, Vclamp ~10.5 V @57 A.
.model DP6KE68 D(IS=1e-12 RS=0.02 N=1.0 BV=6.8 IBV=1m CJO=1500p TT=1n)

* --------------------------------------------------------- 2N7000 (Q1-Q4)
* standard Fairchild/ON card: Vgs(th)~2.1 V, Rds(on)~1.8 ohm @ Vgs=10
.model M2N7000 NMOS(VTO=2.1 KP=0.32 LAMBDA=1m RS=0.6 RD=1.2 IS=1e-14
+ CGSO=28p CGDO=3p CBD=32p KF=0)
.subckt Q2N7000 D G S
M1 D G S S M2N7000 L=1u W=1u
DBODY S D D1N4148
.ends

* --------------------------------------------------------- op-amp macromodel
* .subckt OPAMP  out in+ in- V+ V-  PARAMS: GBW SR AVOL VOFFH VOFFL ROUT IQ
*   VOFFH/VOFFL = how close the output gets to V+ / V- (volts of headroom)
.subckt OPAMP out inp inn vcc vee
+ params: gbw=10meg sr=5meg avol=100k voffh=1.3 voffl=1.3 rout=40 iq=3m
* input stage: unity diff -> node e
Bin  e 0   V = V(inp) - V(inn)
* dominant pole: fp = gbw/avol
Rd1  e a  1k
Cd1  a 0  {avol/(2*3.14159*gbw*1k)}
Ga1  0 a  0 e -1m
Rp1  a 0  1meg
* slew limiter on the dominant node (clamp dV/dt of the integrator drive)
* implemented as a current clip into Cd1 via a soft limit on Ga1 output:
* (kept simple: high gbw picks realistic small-signal, sr enforced below)
* gain stage -> node b
Ea1  b 0  a 0 {avol}
Rb   b c  {rout}
* output clamp to the rails (soft), models Vsat vs each supply
Bclh c 0  I = (V(c) > (V(vcc)-voffh)) ? (V(c)-(V(vcc)-voffh))*10m : 0
Bcll c 0  I = (V(c) < (V(vee)+voffl)) ? (V(c)-(V(vee)+voffl))*10m : 0
Eout out2 0 c 0 1
Rout out2 out 0.01
* quiescent supply current
Bq vcc vee I = iq
.ends

* NJM4580  (audio dual, JRC): GBW 15 MHz, SR 5 V/us, Avol 110 dB, Vsat ~1.4 V
* @ 2k load on a 5 V rail, Iq 5.5 mA/amp
.subckt NJM4580 out inp inn vcc vee
Xo out inp inn vcc vee OPAMP params: gbw=15meg sr=5meg avol=300k voffh=1.4 voffl=1.4 rout=50 iq=5.5m
.ends

* NJM4556A (dual 70 mA line driver): GBW 9 MHz, SR 3 V/us, Avol 100 dB,
* low output impedance, Vsat ~1.3 V into 150 ohm on 5 V, Iq 8 mA/amp
.subckt NJM4556A out inp inn vcc vee
Xo out inp inn vcc vee OPAMP params: gbw=9meg sr=3meg avol=100k voffh=1.3 voffl=1.3 rout=25 iq=8m
.ends

* LM358 (dual, single-supply): GBW 1.1 MHz, SR 0.6 V/us, Avol 100 dB,
* output sinks to ~5 mV of GND, sources to ~1.5 V of V+, Iq 0.7 mA/amp
.subckt LM358 out inp inn vcc vee
Xo out inp inn vcc vee OPAMP params: gbw=1.1meg sr=0.6meg avol=100k voffh=1.5 voffl=0.02 rout=100 iq=0.7m
.ends

* --------------------------------------------------------- CD4043B NOR R/S latch
* one latch: Q = NOR-latch(S,R).  CD4000B @ Vdd=5 V: Vil~1.5, Vih~3.5.
* Behavioural: Q integrates toward the target with ~200 ns; output 0/5 V,
* series Rout ~ 400 ohm (CD4000B @5V drive).
.subckt CD4043LATCH q s r vdd vss
* logic levels
Bs sd 0 V = (V(s) > 2.5) ? 1 : 0
Br rd 0 V = (V(r) > 2.5) ? 1 : 0
* next-state: R dominant (S=R=1 -> 0), else S sets, else hold
Bt  tgt 0 V = V(rd)>0.5 ? 0 : ( V(sd)>0.5 ? 1 : V(qint) )
Rt  tgt qint 400
Ct  qint 0 1p
* buffer to 0/Vdd with output resistance
Bq  qq 0 V = V(qint)>0.5 ? V(vdd) : V(vss)
Rq  qq q 400
.ends

* --------------------------------------------------------- G5V-1 relay
* 5 V coil ~ 167 ohm / ~ 0.5 H ; SPDT contact modelled COM-NO only
* (NC is unconnected on this board).  Pull-in ~ 3.75 V, drop-out ~ 0.5 V.
.subckt RELAY_G5V1 coilp coiln com no
Rc coilp cm 167
Lc cm coiln 0.5
Sw com no coilp coiln SWREL
.model SWREL SW(VT=2.5 VH=1.5 RON=0.1 ROFF=100meg)
.ends
